US06130217
3-(3'-Bromopropoxy)benzonitrile
3-Cyanophenol (10.0 g, 84 mM), 3-bromopropanol (20.3 mL, 114 mM), triphenylphosphine (29.7 g, 114 mM) were stirred in anhydrous THF (40 mL) at room temperature and treated with diethylazodicarboxylate (17.8 mL, 114 mM) dropwise over 5 min. under an atmosphere of nitrogen. This mixture stirred for about 5 hours then diluted with ether (500 mL) and filtered through Celite™. The filtrate was concentrated to a reddish oil which was again dissolved in ether (250 mL), diluted with hexanes (200 mL) and filtered. The filtrates were concentrated then filtered through a silica pad (300 g) eluting with 35% acetone/hexanes to collect the desired product as a yellow oil, 16.85 g. This material was used in its crude form.

reactant | 3-Cyanophenol | 84 mM, 10.0 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | 3-bromopropanol | 114 mM, 20.3 mL | BrCCCO | C3H7BrO
reactant | triphenylphosphine | 114 mM, 29.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 114 mM, 17.8 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ether | 500 mL | CCOCC | C4H10O
product | 3-(3'-Bromopropoxy)benzonitrile | BrCCCOC=1C=C(C#N)C=CC1 | C10H10BrNO
